US04564686
D-α-tocopherol acetate (produced by Amakasu Chemical Co. of Japan) is heated in a mixed solution of 50% aqueous sulfuric acid and ethyl alcohol (the ratio of about 1:5) to conduct hydrolysis. With the use of D-α-tocopherol thus obtained, treatment is carried out in the same manner as in Example 1.

reactant | D-α-tocopherol acetate | CC1=C2C(=C(C(=C1C)OC(=O)C)C)CC[C@@](O2)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C | C31H52O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethyl alcohol | C(C)O | C2H6O
product | D-α-tocopherol | CC1=C(C(=C2CC[C@@](OC2=C1C)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C)C)O | C29H50O2
